US04695581
5-Hydroxy-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole and benzyl bromide were treated in the same way as in Example 35 to obtain 5-benzyloxy-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole.

reactant | 5-Hydroxy-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole | OC=1C=C2C(=C(NC2=CC1)C1=CC(=C(C(=C1)C)O)C)C | C17H17NO2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-benzyloxy-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C1=CC(=C(C(=C1)C)O)C)C | C24H23NO2
